US04428952
1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxylic acid (1.4 g) was reacted with 2-methyl-benzaldehyde (1.65 g) in methanol (50 ml) in the presence of sodium methoxide (1.3 g) under stirring at the reflux temperature for 48 hours. After cooling the reaction mixture was acidified with 37% HCl and the precipitate was filtered and washed with water until neutral: crystallization from chloroform-ethanol gave 1.2 g of 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxylic acid, m.p. 285°-287° C., NMR (CF3COOD) δp.p.m.: 2.58 (s) (3H, CH3), 3.66 (m) (2H, C-2 protons), 4.74 (t) (2H, C-1 protons), 7.40-7.85 (m) (4H, phenyl protons), 8.09 (d) (1H, C-5 proton), 8.65 (t) (1H, =CH--), 8.84 (d d) (1H, C-6 proton), 9.30 (d) (1H, C-8 proton).

reactant | 1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxylic acid | 1.4 g | O=C1N2C(=NC=3C=CC(=CC13)C(=O)O)CCC2 | C12H10N2O3
reactant | 2-methyl-benzaldehyde | 1.65 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | sodium methoxide | 1.3 g | C[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxylic acid | 1.2 g | CC1=C(C=C2CCN3C2=NC=2C=CC(=CC2C3=O)C(=O)O)C=CC=C1 | C20H16N2O3
